US06582351B1
To a solution of 5-cyano-3-(3,4-dimethoxybenzyl)-1-(2,2-dimethyl-1,3-dioxan-5-yl)-2,3-dihydro-1H-benzimidazol-2-one (140 mg) in tetrahydrofuran (2 mL) was added 1 N-hydrochloric acid (1.5 mL), and the mixture was stirred at ambient temperature for 8 hours. After evaporation of the solvent, the residue was partitioned between water and a mixture of chloroform and methanol (10:1). The separated organic layer was washed with brine and dried over magnesium sulfate. After evaporation of solvent, the residue was subjected to a preparative thin-layer chromatography eluting with a mixture of chloroform and methanol (10:1). The obtained substance was triturated with diethyl ether to give 5-cyano-3-(3,4-dimethoxybenzyl)-1-[2-hydroxy-1-(hydroxymethyl)ethyl]-2,3-dihydro-1H-benzimidazol-2-one (92 mg) as powders.

reactant | 5-cyano-3-(3,4-dimethoxybenzyl)-1-(2,2-dimethyl-1,3-dioxan-5-yl)-2,3-dihydro-1H-benzimidazol-2-one | 140 mg | C(#N)C1=CC2=C(N(C(N2CC2=CC(=C(C=C2)OC)OC)=O)C2COC(OC2)(C)C)C=C1 | C23H25N3O5
reactant | hydrochloric acid | 1.5 mL | Cl | ClH
solvent | tetrahydrofuran | 2 mL | O1CCCC1 | C4H8O
product | 5-cyano-3-(3,4-dimethoxybenzyl)-1-[2-hydroxy-1-(hydroxymethyl)ethyl]-2,3-dihydro-1H-benzimidazol-2-one | 92 mg | C(#N)C1=CC2=C(N(C(N2CC2=CC(=C(C=C2)OC)OC)=O)C(CO)CO)C=C1 | C20H21N3O5
